US05516774
1-(2-Nitrophenyl)-2-pyrroleacetic acid, ethyl ester
To a stirred mixture of 1.88 g of 1-(2-nitrophenyl)pyrrole, 4.80 g of ethyl iodoacetate and 2.22 g of FeSO4.7H2O in 40 ml of dimethyl sulfoxide is added dropwise 10 ml of 30% hydrogen peroxide while keeping the reaction mixture at room temperature with a cold water bath. The mixture is stirred at room temperature for one day. An additional 2.4 g of ethyl iodoacetate, 1.1 g of FeSO4.7H2O and 5 ml of 30% hydrogen peroxide is added and the mixture stirred at room temperature for 1 day. The mixture is diluted with water and extracted with diethyl ether. The organic extract is washed with water, brine and dried (Na2SO4). The solvent is removed and the residue (2.12 g) chromatographed on silica gel with ethyl acetate-hexane (1:4) as solvent to give 0.30 g of product as a brown gum.

reactant | 1-(2-nitrophenyl)pyrrole | 1.88 g | [N+](=O)([O-])C1=C(C=CC=C1)N1C=CC=C1 | C10H8N2O2
reactant | ethyl iodoacetate | 4.80 g | ICC(=O)OCC | C4H7IO2
reactant | hydrogen peroxide | 10 ml | OO | H2O2
reactant | ethyl iodoacetate | 2.4 g | ICC(=O)OCC | C4H7IO2
reactant | hydrogen peroxide | 5 ml | OO | H2O2
solvent | dimethyl sulfoxide | 40 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 1-(2-Nitrophenyl)-2-pyrroleacetic acid, ethyl ester | 0.30 g | [N+](=O)([O-])C1=C(C=CC=C1)N1C(=CC=C1)CC(=O)OCC | C14H14N2O4
